US05240938
Step A: Preparation of methyl 2-(2-acetyl-4-methyl-phenoxy)-2-phenylacetate
Using the K2CO3 /acetone conditions for phenol alkylation described in Step A of Example 30, 1.00 g (6.67 mmol) of 2'-hydroxy-5'-methylacetophenone was alkylated with 1.68 g (7.34 mmol) of methyl 2-bromophenylacetate to afford 1.25 g (63%) of the title compound.

reactant | K2CO3 acetone | C(=O)([O-])[O-].[K+].[K+].CC(=O)C
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | 2'-hydroxy-5'-methylacetophenone | 6.67 mmol, 1.00 g | OC1=C(C=C(C=C1)C)C(C)=O | C9H10O2
reactant | methyl 2-bromophenylacetate | 7.34 mmol, 1.68 g | BrC1=C(C=CC=C1)CC(=O)OC | C9H9BrO2
product | methyl 2-(2-acetyl-4-methyl-phenoxy)-2-phenylacetate | 1.25 g, 63% | C(C)(=O)C1=C(OC(C(=O)OC)C2=CC=CC=C2)C=CC(=C1)C | C18H18O4
